Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o female with a history of IVDU
(heroine), untreated HCV, and anxiety who presented with 
vomiting
and jaundice, transferred from ___ due to
transaminitis. 

The patient reports one week of persistent nausea and vomiting.
She has had ___ episodes daily of ___
vomiting almost immediately after eating. No abdominal pain,
diarrhea, constipation, melena, hematochezia, fever, or chills.
She noticed jaundice two days ago, prompting her to be 
evaluated.
She otherwise denies URI symptoms, chest pain, shortness of
breath, cough, joint pain, rashes, confusion, leg swelling or
abdominal distention. She has had chronic night sweats for 
years,
overall unchanged. No weight loss or new lumps/bumps. No recent
travel, new foods/restaurants, sick contacts, or 
herbals/mushroom
ingestion. Only recent medication changes was starting buspar. 
Of
note, the patient was diagnosed with HCV in ___, felt to be
___ IV drug use (___). She is planning to be treated in the
near future.  

The patient originally presented to ___, where
vitals were stable. Labs notable for ALT 1827, AST 865, Tbili
10.8, Alk phos 394. GI was consulted and recommended transfer to
Liver ___ given concern for progression to
fulminant hepatic failure. 
 
In the ED, initial vitals:  Temp 97.8F BP 110/64 HR 54 RR 18 95%
on RA  

Exam notable for:  Normal mental status, sclera icterus, RRR,
CTAB, liver edge palpated ___ below costal margin, extremely
tender to palpation. 

Labs notable for:  Cr 0.8, WBC 6.4, H/H 10.6/35.3, plt 299, AST
717, ALT 1468, AP 352, Tbili 10.4 (direct 8.6), INR 1.3, albumin
3.4, serum tox negative 

Imaging notable for:  
- RUQ ultrasound: 1. No evidence of cholelithiasis, acute
cholecystitis, or biliary dilatation. 2. Mildly echogenic liver
consistent with steatosis. Other forms of liver disease 
including
steatohepatitis, hepatic fibrosis, or cirrhosis cannot be
excluded on the basis of this examination. 3. Marked 
splenomegaly
measuring up to 18.0 cm.

Pt given:  IV phytonadione 10mg 

Consults:
- Hepatology: Recommended HCV VL, CMV, EBV, IV vitamin K, trend
LFTs, admit to medicine with Hepatology consult 

Vitals prior to transfer:  Temp 97.9F BP 112/69 HR 60 RR 16 96%
on RA 

Upon arrival to the floor, the patient reports feeling well
overall. She continues to have intermittent nausea without
vomiting. No abdominal pain. 

REVIEW OF SYSTEMS:  
A ___ ROS was taken and is negative except otherwise stated
in the HPI. 
 

 
Past Medical History:
Hepatitis C infection 
Asthma
Anxiety
Intravenous drug use/opioid use disorder, on methadone since 
___

 
Social History:
___
Family History:
She is unsure of her family history but believes her parents are
relatively healthy. No family history of autoimmune diseases. 

 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM
=========================
VITALS: Temp 97.4F BP 162/90 HR 39 RR 16 98% on RA 
GENERAL: Young female in NAD. Lying comfortably in bed. 
HEENT: AT/NC, Sclera icteric, MMM, oropharynx clear
NECK: supple 
CV: RRR with normal S1/S2, no murmurs, gallops, or rubs
PULM: Normal respiratory effort. Faint scatted wheeze, no 
rhonchi
or rales. 
GI: Soft, ___. Mild RUQ TTP. Normoactive BS. No
guarding or masses. Liver palpable ___ below costal margin.
Spleen palpable ___ cm below costal margin. 
EXTREMITIES: Warm, well perfused. No ___ edema or erythema. 
NEURO: Alert and interactive. CN ___ grossly intact. Moves 
all
extremities. No asterixis.
SKIN: Warm, dry. Jaundiced. No rashes. 

========================
DISCHARGE PHYSICAL EXAM
========================
Vitals: ___ 0831 Temp: 98.7 PO BP: 129/79 R Sitting HR: 54
RR: 18 O2 sat: 96% O2 delivery: Ra    
General: ___ young woman lying comfortably in bed, in
no acute distress.
HEENT: Mildly icteric sclera, mucous membranes moist, oropharynx
clear with no erythema or exudates. No LAD. 
CV: RRR, normal S1 and S2. No murmurs, rubs, gallops 
appreciated.
Lungs: Left lung clear to auscultation. Right lung with
inspiratpry rhonchi heard throughout, loudest in upper lobe. No
crackles or wheeze appreciated.
Abdomen: Nontender and nondistended. NABS. No rebound tenderness
or guarding, no masses appreciated. Enlarged, tender liver edge
palpable approximately 2cm below right costal margin.
Skin: Mildly jaundiced throughout.
Extremities: Warm, well perfused, no clubbing, cyanosis or
edema  
Neuro: Face grossly symmetric. Moving all limbs with purpose
against gravity. Not dysarthric. Alert and oriented to person,
place, time.

 
Pertinent Results:
==========================
ADMISSION LAB RESULTS
==========================
___ 11:36PM BLOOD ___ 
___ Plt ___
___ 11:36PM BLOOD ___ 
___ Im ___ 
___
___ 11:46PM BLOOD ___ ___
___ 11:36PM BLOOD ___ 
___
___ 11:36PM BLOOD ___ 
___
___ 11:36PM BLOOD ___
___ 11:36PM BLOOD ___
___ 07:51AM BLOOD ___
___ 07:51AM BLOOD ___
___ 11:36PM BLOOD ___ HAV 
___

============================
DISCHARGE LAB RESULTS
============================
___ 06:16AM BLOOD ___ 
___ Plt ___
___ 06:16AM BLOOD ___ ___
___ 06:16AM BLOOD ___ 
___
___ 06:16AM BLOOD ___ LD(LDH)-265* 
___
___ 07:51AM BLOOD ___
___ 06:16AM BLOOD ___
___ 01:05PM BLOOD IgM ___
___ 11:36PM BLOOD ___ HAV 
___
___ 07:51AM BLOOD ___
___ 07:51AM BLOOD ___
___ 11:36PM BLOOD CMV ___ CMV ___ 
infect EBV ___ EBV ___ in
___ 07:51AM BLOOD HIV ___
___ 11:36PM BLOOD HCV ___

=====================
IMAGING AND REPORTS
=====================

RUQ ULTRASOUND ___
IMPRESSION: 
1. No evidence of cholelithiasis, acute cholecystitis, or 
biliary dilatation. 
2. Mildly echogenic liver consistent with steatosis. Other forms 
of liver 
disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination. 
3. Marked splenomegaly measuring up to 18.0 cm. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of 
intravenous drug use, opioid use disorder (last use ~6 months 
ago), hepatitis C, anxiety who presented with several weeks of 
progressive fatigue, nausea, vomiting and jaundice. She was 
found to have hepatitis B infection. 

ACUTE PROBLEMS:
===============

# Acute hepatitis B infection
Patient described a history of several weeks of symptoms that 
started with fatigue. This progressed to nausea and vomiting 
that was worse after meals and had been ongoing for ___ weeks 
prior to presentation. When she developed jaundice, she decided 
to seek medical attention. She initially went to ___ 
___ and was then transferred to ___. Initial liver 
enzymes were in the thousands, with alk phos 300 and bilirubin 
10. Hepatology was consulted. A RUQ ultrasound demonstrated no 
thrombosis. Tox screen was negative for Tylenol. A full workup 
was initiated. She was found to be positive for hep B surface 
antigen, hep b core antibody, and core IgM suggesting acute 
hepatitis B infection. Viral load was pending at the time of 
discharge. She denied recent IV drug use, but did state that 
she has a new sexual partner. We counseled her on safe sex 
practices and advised her to have her partner get tested for 
hepatitis B as well. She was negative for hepatitis A, and was 
given a dose of Hep A vaccine on ___. She should get a 
second dose for optimal coverage. She showed evidence of prior 
EBV infection, and CMV IgM was equivocal, although acute CMV 
was felt to be unlikely. She was negative for HIV. She will 
follow up with Dr. ___ the next month to determine if 
treatment is needed. Hepatitis E and D were pending at time of 
discharge.

# Mild microcytic anemia, iron deficiency
Admission hemoglobin/hematocrit of ___. Unknown baseline. She 
reported menstruation at time of presentation and a history of 
heavy menses. MCV ___, ferritin 32, and iron 23, felt to be 
consistent with iron deficiency. Discharged on PO iron on MWF. 
She should follow up with her PCP. 

# Bradycardia
Heart rates were in the ___, could be representative of 
young age and methadone use. She was asymptomatic. EKG showed 
no other abnormalities.

CHRONIC PROBLEMS:
=================
# History of IV drug use
# Opioid use disorder
Previously used heroin but has been on methadone since ___ without relapse. She was maintained on her regular dose of 
methadone 80mg daily. Called her center to confirm dosing and 
inform them that the patient has been hospitalized. 

# Anxiety
Home medications include aripiprazole, buspirone and 
sertraline. These were initially held due to elevated liver 
enzymes on admission, but were restarted prior to discharge.

# Chronic hepatitis C infection
Patient has known HCV, but has not yet started treatment 
because she must maintain a period of sobriety in order to be 
eligible. She has been sober for 4 months on methadone. 
Hepatitis C viral load was checked this admission, and was 
pending at the time of discharge.

=======================
TRANSITIONAL ISSUES
=======================
[ ] Hepatology ___ scheduled. Plan to ___ on HBV 
serologies, HCV VL, HDV PCR and consider hep C treatment +/- 
hep B treatment (she has maintained sobriety since ___
[ ] ___ hepatitis A vaccine given ___. Should get a second 
dose for optimal coverage.
[ ] Check vitamin D level as outpatient, given liver disease 
(nutrition recommendation).
[ ] Patient was maintained on home dose methadone throughout 
hospitalization.
[ ] PCP: follow up iron deficiency anemia, maintenance of 
sobriety, and resolution of abdominal pain/nausea. Patient 
should consider starting durable ___. She may 
need referral to Hepatology if her insurance will not cover her 
to see Hepatology in ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/wheezing 
2. Sertraline 50 mg PO DAILY 
3. BusPIRone 15 mg PO BID 
4. ARIPiprazole 5 mg PO DAILY 
5. Methadone 80 mg PO DAILY 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO 3X/WEEK (___) 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
Three times per week Disp #*30 Tablet Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX ___  One ___ by mouth once a day 
Disp #*30 Capsule Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB/wheezing  
4.  ARIPiprazole 5 mg PO DAILY  
5.  BusPIRone 15 mg PO BID  
6.  Methadone 80 mg PO DAILY 
Consider prescribing naloxone at discharge  
7.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Acute hepatitis B infection

SECONDARY:
-Hepatitis C
-Opioid use disorder, on methadone 
-Anxiety 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WERE YOU IN THE HOSPITAL?  
- You were admitted to the hospital for nausea and vomiting.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL?
- You were found to have a new infection called Hepatitis B. 
This is a different virus from Hepatitis C, which you have 
already been diagnosed with. 

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL?  
- Continue to take all your medicines as prescribed below. 
- Show up to your appointments as listed below.

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___